US07704993B2
Step 2: Preparation of (S)-N-Trifluoroacetyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine.
A solution of (S)-N-Trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.62 g, 2.1 mmol) in dichloromethane (10 mL) was treated with N-chlorosuccinimide (0.284 g, 2.1 mmol) and trifluoromethanesulfonic acid (0.639 g, 4.2 mmol). The reaction was stirred for 16 h at 20° C., diluted with water (20 mL) and extracted with dichloromethane (25 mL). The organics were dried with MgSO4, filtered and concentrated. HPLC purification was done to provide 0.078 g of a white solid. 1H NMR (400 MHz, CDCl3, mixture of rotamers) δ 7.32-7.25 (m, 1H), 6.97-6.93 (m, 1H), 4.27-4.24 (m, 0.6H), 4.19-4.13 (m, 1H), 4.08-4.01 (m, 1H), 3.91-3.86 (0.8H, m), 3.74-3.69 (m, 0.8H:), 3.45-3.37 (m, 1H), 3.31-3.21 (m, 1H), 2.96-2.80 (m, 1H), 1.28-1.22 (m, 3H). MS calculated for C13H12Cl2F3NO+H: 326, observed: 326.

reactant | (S)-N-Trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.1 mmol, 0.62 g | FC(C(=O)N1CCC2=C([C@@H](C1)C)C=C(C=C2)Cl)(F)F | C13H13ClF3NO
reactant | N-chlorosuccinimide | 2.1 mmol, 0.284 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | trifluoromethanesulfonic acid | 4.2 mmol, 0.639 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | (S)-N-Trifluoroacetyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.078 g | FC(C(=O)N1CCC2=C([C@@H](C1)C)C(=C(C=C2)Cl)Cl)(F)F | C13H12Cl2F3NO
